US07932272B2
5-(3-Fluorobenzyl)-thiophene-2-carbaldehyde
An aqueous solution of saturated citric acid (20 mL) was added to a solution of 2-(5-(3-fluoro-benzyl)thiophen-2-yl)-[1,3]dioxolane described in Preparation Example 52 (670 mg, 2.53 mmol) in methanol (20 mL), and the solution was stirred at room temperature for 30 minutes. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, and the title compound (485 mg, 2.2 mmol, 87.0%) was obtained as a brown oil.

reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 2-(5-(3-fluoro-benzyl)thiophen-2-yl)-[1,3]dioxolane | FC=1C=C(CC2=CC=C(S2)C2OCCO2)C=CC1 | C14H13FO2S
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | 5-(3-Fluorobenzyl)-thiophene-2-carbaldehyde | 2.2 mmol, 485 mg, 87.0% | FC=1C=C(CC2=CC=C(S2)C=O)C=CC1 | C12H9FOS
